US05614544
A mixture of 5-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]benzylidene]-2,4-oxazolidinedione (0.75 g), palladium-carbon (5%, 0.75 g) and tetrahydrofuran (THF) (70 ml) was subjected to catalytic hydrogenation at 3 atm and room temperature. After the catalyst was filtered out, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography. From the fraction eluted with chloroform-ethyl acetate (1:1, v/v), 5-[4-[1-hydroxy-3-(5-methyl-2-phenyl-4-oxazolyl)propyl]benzyl]-2,4-oxazolidinedione (0.4 g, 53%) was obtained, which was then recrystallized from dichloromethane-methanol-isopropyl ether to yield colorless needles having a melting point of 154°-155° C.

reactant | 5-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]benzylidene]-2,4-oxazolidinedione | 0.75 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)C1=CC=C(C=C2C(NC(O2)=O)=O)C=C1 | C23H18N2O5
catalyst | palladium-carbon | 0.75 g | [C].[Pd]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 5-[4-[1-hydroxy-3-(5-methyl-2-phenyl-4-oxazolyl)propyl]benzyl]-2,4-oxazolidinedione | 0.4 g, 53% | OC(CCC=1N=C(OC1C)C1=CC=CC=C1)C1=CC=C(CC2C(NC(O2)=O)=O)C=C1 | C23H22N2O5
